US05486525
A solution of 5-acetoxymethyl-2-ethoxycarbonylfuran (Maybridge Chemical Co., Ltd., Tintagel, Cornwall, UK., 0.54 g, 2.5 mmol) and K2CO3 (0.352 g, 2.6 mmol) in 5:1THF/H2O (30 mL), was stirred for 17 hours at ambient temperature. The reaction mixture was concentrated in vacuo and the residue partitioned between CH2Cl2 and saturated aqueous NaHCO3. The organic phase was dried over MgSO4, filtered, and concentrated in vacuo to give 5-hydroxymethyl-2-carboethoxyfuran (0.32 g) as a yellow liquid which was used without further purification.

reactant | 5-acetoxymethyl-2-ethoxycarbonylfuran | 2.5 mmol, 0.54 g | C(C)(=O)OCC1=CC=C(O1)C(=O)OCC | C10H12O5
reactant | K2CO3 | 2.6 mmol, 0.352 g | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O | 30 mL | O | H2O
product | 5-hydroxymethyl-2-carboethoxyfuran | 0.32 g | OCC1=CC=C(O1)C(=O)OCC | C8H10O4
